US07714161B2
A 1 M solution of BBr3 (9 ml, 9 mmol) in CH2Cl2 was added to a well-stirred solution of 5-benzyloxy-3-fluoro-4′-acetoxystilbene (1.09 g, 3 mmol) in dry CH2Cl2 (120 mL) at −78° C. The mixture was warmed to −20° C. and stirred for 10 minutes. Then MeOH was added at −78° C. The mixture was washed with saturated NaHCO3, and water, dried over Na2SO4, filtered and evaporated. The 4′-acetoxy-3-fluoro-5-hydroxystilbene (0.50 g, 61%) was obtained as white solid. To a solution of the crude 4′-acetoxy-3-fluoro-5-hydroxystilbene (0.50 g, 1.8 mmol) in MeOH (7.5 ml) was added 3.7 ml 4M HCl in 1,4-dioxane. The mixture was stirred for 20 minutes at ambient temperature. After purification by flash column, 3-fluoro-5,4′-dihydroxystilbene (0.33 g, 780%) was obtained. Data are: 1H NMR (Aceton-d6, 300 MHz) δ 8.624 (s, 2H), 7.46 (m, 2H), 7.06 (q, 2H), 6.84 (m, 4H), 6.66 (dt, 1H); 13C NMR (Aceton-d6, 75 MHz) δ 164.90 (d), 159.96 (d), 158.57, 142.02 (d), 130.84, 129.63, 129.10, 125.55 (d), 116.53, 110.28 (d), 104.44 (d), 102.00 (d); 19F NMR (Aceton-d6, 282 MHz) δ-32429.72 (t); HRMS (EI+) found 230.0738, calcd 230.0743 for C14H, FO2.

reactant | BBr3 | 9 mmol, 9 ml | B(Br)(Br)Br | BBr3
reactant | 5-benzyloxy-3-fluoro-4′-acetoxystilbene | 3 mmol, 1.09 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C=CC1=CC=C(C=C1)OC(C)=O)F | C23H19FO3
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 4′-acetoxy-3-fluoro-5-hydroxystilbene | 0.50 g, 61% | C(C)(=O)OC1=CC=C(C=CC2=CC(=CC(=C2)O)F)C=C1 | C16H13FO3
